2148-10-13 05:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2148-10-12**] 08:00 PM
   RIJ placed from OSH
 TRANSTHORACIC ECHO - At [**2148-10-12**] 09:15 PM
 NASAL SWAB - At [**2148-10-12**] 10:00 PM
   MRSA screen
 URINE CULTURE - At [**2148-10-12**] 10:00 PM
   UA/UCx
 BLOOD CULTURED - At [**2148-10-13**] 01:15 AM
   venipuncture
 MULTI LUMEN - START [**2148-10-13**] 03:00 AM
 MULTI LUMEN - STOP [**2148-10-13**] 03:30 AM
   RIJ placed from OSH
 BLOOD CULTURED - At [**2148-10-13**] 03:30 AM
 SPUTUM CULTURE - At [**2148-10-13**] 05:00 AM
   S: Intubated
   Tele: no significant events
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 25 mcg/hour
   Dobutamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2148-10-12**] 08:00 PM
   Pantoprazole (Protonix) - [**2148-10-13**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2148-10-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-10-13**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 35.9
C (96.7
   HR: 77 (73 - 110) bpm
   BP: 100/70(78) {90/59(68) - 135/92(98)} mmHg
   RR: 18 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CO/CI (Fick): (8.5 L/min) / (4.2 L/min/m2)
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                     13 mL
                                                                    818 mL
   PO:
   TF:
   IVF:
                                                                     13 mL
                                                                    287 mL
   Blood products:
                                                                    531 mL
   Total out:
                                                                    685 mL
                                                                  1,080 mL
   Urine:
                                                                    525 mL
                                                                  1,080 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                   -673 mL
                                                                   -262 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 14 cmH2O
   Plateau: 13 cmH2O
   Compliance: 90.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/36/214/24/1  9PM
   Ve: 7.4 L/min
   PaO2 / FiO2: 535
   Physical Examination
   General: 48 M, intubated and sedated, NAD.
   HEENT: NC/AT. Pupils pinpoint and reactive. ET tube in place. OG tube
   in place. L IJ in place, C/D/I.
   Neck: No JVD.
   CV: S1, S2 with Grade III/VI systolic ejection murmur, RUSB, radiating
   to the carotids.
   Pulm: Faint bibasilar crackles, otherwise CTAB.
   Abd: Soft, NT/ND with normoactive BS.
   Ext: 2+ pitting edema B/L to mid-thigh. Distal pulses intact.  Cool
   toes.
   Skin: Diffuse erythroderma of lower legs with dark papules
   (blood/excoriation?)
   Labs / Radiology
   138
                               [image002.gif]
                                     95
                               [image002.gif]
                                     28
   [image004.gif]
   99
                                                                   AGap=15
   [image005.gif]
   3.6
                               [image002.gif]
                                     32
                               [image002.gif]
                                     1.3
   [image007.gif]
   CK: 87
   MB: Notdone
   Trop-T: 0.03
   Comments:
   cTropnT: Ctropnt > 0.10 Ng/Ml Suggests Acute Mi
   Ca: 8.3 Mg: 1.6 P: 4.2
   ALT: 261
   AP: 139
   Tbili: 5.5
   Alb:
   AST: 446
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 293**]:
   Lip:
   Source: Line-LIJ TLC
   96
                                                                       9.8
                                                            [image007.gif]
                                    14.3
   [image004.gif]
   105
                 [image008.gif]
   [image004.gif]
                                    41.7
   [image007.gif]
   Source: [**Name (NI) 2682**] TLC
   PT: 19.4
   PTT: 38.6
   INR: 1.8
   [**2148-10-12**]  09:23 PM
                            [**2148-10-12**]  09:49 PM
                            [**2148-10-13**]  04:51 AM
   WBC
   13.4
   9.8
   Hct
   49.7
   41.7
   Plt
   111
   105
   Cr
   1.6
   TropT
   0.04
   TCO2
   25
   Glucose
   73
   Other labs: PT / PTT / INR:23.3/33.8/2.2, CK / CKMB /
   Troponin-T:128/5/0.04, ALT / AST:302/521, Alk Phos / T Bili:177/7.0,
   Differential-Neuts:77.7 %, Lymph:10.8 %, Mono:10.6 %, Eos:0.2 %,
   Fibrinogen:216 mg/dL, Lactic Acid:3.9 mmol/L, Albumin:3.5 g/dL, LDH:915
   IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   B, U Cx  P
   Echo: There is moderate symmetric left ventricular hypertrophy. The
   left ventricular cavity is moderately dilated. There is severe global
   left ventricular hypokinesis (LVEF = 15-20 %). The right ventricular
   cavity is moderately dilated with depressed free wall contractility.
   The ascending aorta is moderately dilated. The number of aortic valve
   leaflets cannot be determined. The aortic valve leaflets are severely
   thickened/deformed. Significant aortic stenosis is present (not
   quantified). Mild to moderate ([**11-29**]+) aortic regurgitation is seen. The
   aortic regurgitation jet is eccentric, directed toward the anterior
   mitral leaflet. There is no pericardial effusion.
   PRELIMINARY REPORT developed by a Cardiology Fellow. Not
   reviewed/approved by the Attending Echo Physician.
   [**Name Initial (NameIs) **]: Left IJ line terminates in expected location of lower SVC
   Assessment and Plan
   48 M with HTN, hyperlipidemia, severe AS, and tobacco abuse who was
   transferred from an OSH for further evaluation and management of his
   heart failure, aortic stenosis, and acute respiratory distress.
   .
   # Biventricular heart failure - Most likely [**12-30**] to severe aortic
   stenosis with known bicuspid aortic valve. Had been on Lasix PO as an
   outpatient. Known last EF was 25%, confirmed by bedside echo.  [**Month (only) 8**] also
   represent vitamin deficiency eg. beriberi, scurvy, or
   hematochromatosis.
   - will diurese with IV lasix 80 mg and gtt if needed with goal 2-3 L
   negative
   - will start low-dose dobutamine as an ionotropic [**Doctor Last Name **] to improve his
   hemodynamics.  MAP goal > 65, will follow lactate and CV-O2 sat.
   - will need repeat cardiac catheterization and CT surgery c/s for valve
   repair
   - formal TTE in on Monday
   - would consider valvuar dilation if not a surgical candidate
   .
   # Respiratory failure
   Pt intubated earlier today at an OSH for respiratory distress. Will
   keep on vent until tomorrow for assistance with diuresis. Unclear what
   precipitated need for intubation, likely hypoxia from pulmonary edema
   [**12-30**] to severe AS and heart failure.  Also could represent aspiration
   event, especially given emesis on arrival and infiltrate on [**Month/Day (2) **].
   Consider infiltrate a pneumonitis for now, but low threshold to
   initiate antibiotics for aspiration coverage.
   - goal to wean vent tomorrow if diuresed
   - VAP bundle
   - daily CXRs
   - serial ABGs
   .
   # HTN
   - dobutamine for now, normotensive currently, will monitor
   .
   # Hyperlipidemia
   - not on any medications as an outpatient, will hold on statins for now
   given liver failure [**12-30**] to congestion
   .
   # Liver failure/coagulopathy - Most likely [**12-30**] to hepatic congestion
   from right sided heart failure.
   - will send DIC labs
   - hepatitis serologies, consider HIV test when pt awake and able to
   consent for procedure
   .
   # Upper GI bleed - Guiac positive dark NG tube aspirate.  Likely
   related to coaugulopathy.  Hct currently elevated.  Could also
   represent esophageal trauma.
   - trend Hct
   - GI consult as may need EGD.
   - transfuse for > 10 point HCT drop
   - Protonix IV BID
   .
   # Renal failure - Likely from poor forward flow, will send urine lytes,
   U/A, and urine culture
   - renally dose all meds
   .
   # Leukocytosis/fever
   - Will send BCx and UCx, obtain [**Month/Day (2) **]
   - Sputum culture while intubated
   .
   # Alcohol withdrawal - Positive CIWA scales at outside hospital.
   treated with diazapimes.  Will use versed for sedation and watch for
   withdrawaul symptoms by CIWA
   .
   # FEN - NPO for now
   .
   # PPx - Protonix IV BID, SQ heparin,  pneumoboots
   .
   # Code status - fullcode
   .
   # Dispo - CCU care
   .
   # Access: resited central line
   .
   # Contact:  Wife
   1. IV access: Temporary central access (ICU) Location: Left Internal
   Jugular, Date inserted: [**2148-10-13**] Order date: [**10-13**] @ 0309
   6. Furosemide 1-5 mg/hr IV DRIP INFUSION
   Titrate to urine output 100 mL per hour.  Order date: [**10-12**] @ 2234
   2. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   Use only if patient is on mechanical ventilation.  Order date: [**10-13**] @
   0036
   7. Midazolam 2-4 mg/hr IV DRIP TITRATE TO [**Last Name (un) 1253**] 3
   Only while intubated  Order date: [**10-12**] @ [**2145**]
   3. DOBUTamine 2.5 mcg/kg/min IV DRIP TITRATE TO MAP > 65  Order date:
   [**10-12**] @ 2256
   8. Ondansetron 4 mg IV Q8H:PRN Nausea  Order date: [**10-12**] @ 2031
   4. Fentanyl Citrate 12.5-50 mcg/hr IV DRIP INFUSION  Order date: [**10-12**]
   @ [**2145**]
   9. Pantoprazole 40 mg IV Q12H  Order date: [**10-12**] @ 2157
   5. Furosemide 80 mg IV ONCE Duration: 1 Doses Order date: [**10-12**] @ 2234
   10. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**10-13**] @ 0309

2148-10-14 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2148-10-14**] 05:00 AM
   Spoke with family to give update, answered questions to their apparent
   satisfaction.
   Diuresed aggressively, BPs tolerated.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 25 mcg/hour
   Dobutamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2148-10-13**] 08:11 AM
   Pantoprazole (Protonix) - [**2148-10-14**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2148-10-14**] 06:30 AM
   Other medications:
   Flowsheet Data as of  [**2148-10-14**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.3
C (99.1
   HR: 85 (70 - 107) bpm
   BP: 101/70(77) {87/58(65) - 110/75(82)} mmHg
   RR: 15 (8 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.1 kg (admission): 83.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,823 mL
                                                                    218 mL
   PO:
             TF:
   IVF:
                                                                  1,092 mL
                                                                    218 mL
   Blood products:
                                                                    531 mL
   Total out:
                                                                  5,855 mL
                                                                    295 mL
   Urine:
                                                                  5,055 mL
                                                                    295 mL
   NG:
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                 -4,032 mL
                                                                    -77 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 317 (317 - 317) mL
   RR (Set): 10
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 95%
   ABG: ///35/
   Ve: 8.5 L/min
   Physical Examination
   Labs / Radiology
   105 K/uL
   15.9 g/dL
   81 mg/dL
   1.2 mg/dL
   35 mEq/L
   4.0 mEq/L
   19 mg/dL
   100 mEq/L
   142 mEq/L
   44.7 %
   10.7 K/uL
        [image002.jpg]
                            [**2148-10-12**]  09:23 PM
                            [**2148-10-12**]  09:49 PM
                            [**2148-10-13**]  04:51 AM
                            [**2148-10-13**]  02:40 PM
                            [**2148-10-13**]  09:00 PM
                            [**2148-10-14**]  04:07 AM
   WBC
   13.4
   9.8
   9.6
   9.8
   10.7
   Hct
   49.7
   41.7
   46.1
   45.4
   44.7
   Plt
   111
   105
   117
   112
   105
   Cr
   1.6
   1.3
   1.1
   1.2
   TropT
   0.04
   0.03
   TCO2
   25
   Glucose
   73
   99
   81
   Other labs: PT / PTT / INR:17.7/33.9/1.6, CK / CKMB /
   Troponin-T:87/5/0.03, ALT / AST:261/446, Alk Phos / T Bili:139/5.5,
   Differential-Neuts:77.7 %, Lymph:10.8 %, Mono:10.6 %, Eos:0.2 %,
   Fibrinogen:216 mg/dL, Lactic Acid:3.9 mmol/L, Albumin:3.5 g/dL, LDH:915
   IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   48 M with HTN, hyperlipidemia, severe AS, and tobacco abuse who was
   transferred from an OSH for further evaluation and management of his
   heart failure, aortic stenosis, and acute respiratory distress.
   .
   # Biventricular heart failure - Most likely [**12-30**] to severe aortic
   stenosis with known bicuspid aortic valve. Had been on Lasix PO as an
   outpatient. Known last EF was 25%, confirmed by bedside echo.  [**Month (only) 8**] also
   represent vitamin deficiency eg. beriberi, scurvy, or
   hematochromatosis.
   - will diurese with IV lasix 80 mg and gtt if needed with goal 2-3 L
   negative
   - will start low-dose dobutamine as an ionotropic [**Doctor Last Name **] to improve his
   hemodynamics.  MAP goal > 65, will follow lactate and CV-O2 sat.
   - will need repeat cardiac catheterization and CT surgery c/s for valve
   repair
   - formal TTE in on Monday
   - would consider valvuar dilation if not a surgical candidate
   .
   # Respiratory failure
   Pt intubated earlier today at an OSH for respiratory distress. Will
   keep on vent until tomorrow for assistance with diuresis. Unclear what
   precipitated need for intubation, likely hypoxia from pulmonary edema
   [**12-30**] to severe AS and heart failure.  Also could represent aspiration
   event, especially given emesis on arrival and infiltrate on CXR.
   Consider infiltrate a pneumonitis for now, but low threshold to
   initiate antibiotics for aspiration coverage.
   - goal to wean vent tomorrow if diuresed
   - VAP bundle
   - daily CXRs
   - serial ABGs
   .
   # HTN
   - dobutamine for now, normotensive currently, will monitor
   .
   # Hyperlipidemia
   - not on any medications as an outpatient, will hold on statins for now
   given liver failure [**12-30**] to congestion
   .
   # Liver failure/coagulopathy - Most likely [**12-30**] to hepatic congestion
   from right sided heart failure.
   - will send DIC labs
   - hepatitis serologies, consider HIV test when pt awake and able to
   consent for procedure
   .
   # Upper GI bleed - Guiac positive dark NG tube aspirate.  Likely
   related to coaugulopathy.  Hct currently elevated.  Could also
   represent esophageal trauma.
   - trend Hct
   - GI consult as may need EGD.
   - transfuse for > 10 point HCT drop
   - Protonix IV BID
   .
   # Renal failure - Likely from poor forward flow, will send urine lytes,
   U/A, and urine culture
   - renally dose all meds
   .
   # Leukocytosis/fever
   - Will send BCx and UCx, obtain CXR
   - Sputum culture while intubated
   .
   # Alcohol withdrawal - Positive CIWA scales at outside hospital.
   treated with diazapimes.  Will use versed for sedation and watch for
   withdrawaul symptoms by CIWA
   .
   # FEN - NPO for now
   # PPx - Protonix IV BID, SQ heparin,  pneumoboots
   # Code status - fullcode
   # Dispo - CCU
   # Access: Central line
                       Active Medications [**Known lastname 2691**],[**Known firstname **]
         1. Ascorbic Acid (Liquid) 504 mg PO DAILY Duration: 5 Days
   7. Midazolam 2-4 mg/hr IV DRIP
   2. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   8. Multivitamins 5 mL PO DAILY
   3. DOBUTamine 2.5 mcg/kg/min IV
   9. Ondansetron 4 mg IV Q8H:PRN Nausea
   4. Fentanyl Citrate 12.5-50 mcg/hr IV DRIP INFUSION
   10. Pantoprazole 40 mg IV Q12H
   5. FoLIC Acid 1 mg IV Q24H
   11. Heparin 5000 UNIT SC TID
   6. Furosemide 1-5 mg/hr IV DRIP INFUSION
   12. Thiamine 100 mg IV DAILY

2148-10-15 06:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2148-10-14**] 12:30 PM
 ENDOSCOPY - At [**2148-10-14**] 04:30 PM
 ENDOSCOPY - At [**2148-10-14**] 04:30 PM
 SPUTUM CULTURE - At [**2148-10-14**] 09:00 PM
 NASAL SWAB - At [**2148-10-15**] 01:30 AM
   weekly MRSA screen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-10-14**] 07:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2148-10-14**] 08:30 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2148-10-14**] 10:40 AM
   Heparin Sodium (Prophylaxis) - [**2148-10-14**] 10:00 PM
   Pantoprazole (Protonix) - [**2148-10-15**] 12:00 AM
   Other medications:
   Fentanyl gtt
   Midazolam gtt
   [**Last Name (un) 2713**] 40mg q12hrs
   Lasix gtt
   SCH
   Thiamine 100mg daily
   Folic Acid 1mg q24hrs
   MVI
   Ascorbic Acid
   Vanco 1g q12hrs
   Zosyn 4.5g q8hrs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-10-15**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 99 (69 - 105) bpm
   BP: 108/83(88) {86/59(66) - 117/85(98)} mmHg
   RR: 14 (11 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.1 kg (admission): 83.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,491 mL
                                                                    245 mL
   PO:
             TF:
   IVF:
                                                                  1,391 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  5,150 mL
                                                                    800 mL
   Urine:
                                                                  5,150 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,659 mL
                                                                   -555 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 247 (247 - 247) mL
   RR (Set): 10
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 26 cmH2O
   Plateau: 17 cmH2O
   Compliance: 49.5 cmH2O/mL
   SpO2: 95%
   ABG: ////
   Ve: 7.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   15.9 g/dL
   81 mg/dL
   1.2 mg/dL
   35 mEq/L
   3.4 mEq/L
   19 mg/dL
   100 mEq/L
   142 mEq/L
   44.7 %
   10.7 K/uL
        [image002.jpg]
                            [**2148-10-12**]  09:23 PM
                            [**2148-10-12**]  09:49 PM
                            [**2148-10-13**]  04:51 AM
                            [**2148-10-13**]  02:40 PM
                            [**2148-10-13**]  09:00 PM
                            [**2148-10-14**]  04:07 AM
   WBC
   13.4
   9.8
   9.6
   9.8
   10.7
   Hct
   49.7
   41.7
   46.1
   45.4
   44.7
   Plt
   111
   105
   117
   112
   105
   Cr
   1.6
   1.3
   1.1
   1.2
   TropT
   0.04
   0.03
   TCO2
   25
   Glucose
   73
   99
   81
   Other labs: PT / PTT / INR:17.7/33.9/1.6, CK / CKMB /
   Troponin-T:87/5/0.03, ALT / AST:214/237, Alk Phos / T Bili:132/5.0,
   Differential-Neuts:77.7 %, Lymph:10.8 %, Mono:10.6 %, Eos:0.2 %,
   Fibrinogen:216 mg/dL, Lactic Acid:3.9 mmol/L, Albumin:3.5 g/dL, LDH:915
   IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Echo [**2148-10-14**]
   Left ventricular hypertrophy with cavity dilation and severe global
   hypokinesis. Severe aortic valve stenosis with underlying bicuspid
   aortic valve. Dilated ascending aorta. Mild pulmonary artery systolic
   hypertension.
   Assessment and Plan
   48 M with HTN, hyperlipidemia, severe AS, and tobacco abuse who was
   transferred from an OSH for further evaluation and management of his
   heart failure, aortic stenosis, and acute respiratory distress.
   .
   # Biventricular heart failure
 Multifactorial
 likely secondary to
   severe AS, also MR, nutritional deficiency
   - labwork pending for  scurvy, hematochromatosis. Getting Vit C and
   MVi, Thiamine, Folate
   - Diuresing with lasix drip for goal 3-4 liters neg as tolerated and
   check PM lytes
   - Goal to wean dobutamine
   - formal TTE today, then eval by CT [**Doctor First Name 91**] for candidacy re valve repair
   - would consider valvular dilation if not a surgical candidate
   .
   # Respiratory failure
   - Tolerating vent well, ready to extubated based on settings and RSBI
   but will wait until after EGD and more diuresis.
   - VAP bundle, daily CXRs, serial ABGs
   .
   # HTN:
   - will wean dobutamine
   .
   # Hyperlipidemia
   - Holding statin given liver failure
   .
   # Liver failure/coagulopathy
 DDx: congestion, etoh induced,
   viral/infectious
   - hep panel pending, ? HIV once awake
   - Hepatology following, will follow recs for labwork
   .
   # Upper GI bleed - Guaiac positive dark NG tube aspirate, initially
   large volumes now slwoing. Hct stable
   - DDx varices, trauma, coagulopathy
   - Liver to do EGD this afternoon.
   - transfuse for > 10 point HCT drop
   - Protonix IV BID
   .
   # Renal failure - Likely from poor forward flow.
   - Renally dose meds.
   - Watch pm lytes/renal function with aggressive diuresis.
   .
   # Leukocytosis/fever, ? PNA on CXR
   - BCx, cath tip Cx pending
   - UCx neg, sputum cx OP flora
   - consider starting antibiotic if worsens.
   .
   # Alcohol withdrawal
 Will need CIWA scale once extubated
   .
   # FEN - NPO for now
   # PPx - Protonix IV BID, SQ heparin,  pneumoboots
   # Code status - fullcode
   # Dispo - CCU
   # Access: Central line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2148-10-13**] 02:00 AM
   Multi Lumen - [**2148-10-13**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-10-16 06:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 48 M with HTN, hyperlipidemia, severe AS, and tobacco
   abuse who was transferred from an OSH for further evaluation and
   management of his heart failure, aortic stenosis, and acute respiratory
   distress.
   24 Hour Events:
   Continued to diurese well.  Needs ID approval for Vanc.  Hep serologies
   (-).  Up slightly on Peep and RR for AM ABG.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-10-15**] 08:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2148-10-16**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-10-15**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2148-10-15**] 10:00 PM
   Flowsheet Data as of  [**2148-10-16**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 73 (71 - 99) bpm
   BP: 94/65(71) {87/59(67) - 111/84(91)} mmHg
   RR: 11 (6 - 16) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.8 kg (admission): 83.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,557 mL
                                                                    199 mL
   PO:
             TF:
   IVF:
                                                                  1,497 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  4,140 mL
                                                                  1,780 mL
   Urine:
                                                                  4,140 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,583 mL
                                                                 -1,581 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 23 cmH2O
   Plateau: 12 cmH2O
   Compliance: 80.9 cmH2O/mL
   SpO2: 94%
   ABG: 7.46/63/67/45/17
   Ve: 10.3 L/min
   PaO2 / FiO2: 168
   Physical Examination
   GEN: Intubated sedated
   HEENT: not able to eval
   CV: loud systolic murmur at upper sternal borders and apex. S2 only
   heard at apex. RRR
   PULM: clear
   ABD: soft, NT, ND, +BS, no HSM
   EXT: warm, petechial rash, erythematous distally with edema
   Labs / Radiology
   133 K/uL
   16.6 g/dL
   91 mg/dL
   1.1 mg/dL
   45 mEq/L
   3.3 mEq/L
   12 mg/dL
   96 mEq/L
   147 mEq/L
   48.9 %
   8.2 K/uL
        [image002.jpg] ALT / AST:130/97, Alk Phos / T Bili:114/7.2,
   LDH:296
                                                   PT / PTT /
   INR:14.3/32.7/1.2
                                                  Ca++:8.0 mg/dL, Mg++:1.6
   mg/dL, PO4:2.9 mg/dL
                            [**2148-10-12**]  09:23 PM
                            [**2148-10-12**]  09:49 PM
                            [**2148-10-13**]  04:51 AM
                            [**2148-10-13**]  02:40 PM
                            [**2148-10-13**]  09:00 PM
                            [**2148-10-14**]  04:07 AM
                            [**2148-10-15**]  06:17 AM
                            [**2148-10-15**]  06:33 AM
                            [**2148-10-16**]  03:20 AM
                            [**2148-10-16**]  05:33 AM
   WBC
   13.4
   9.8
   9.6
   9.8
   10.7
   7.9
   8.2
   Hct
   49.7
   41.7
   46.1
   45.4
   44.7
   50.8
   48.9
   Plt
   111
   105
   117
   112
   105
   115
   133
   Cr
   1.6
   1.3
   1.1
   1.2
   1.1
   1.1
   TropT
   0.04
   0.03
   TCO2
   25
   38
   46
   Glucose
   73
   99
   81
   88
   91
   Iron studies: Iron/TIBC 13/ 283, Ferritin 718
   Serum Tox neg
   Urine Tox pos for benzos and opiates
   HBV immunized
   HCV neg
   AMA, [**Doctor First Name **], IgG, IgA neg/nl
   Anti-smooth muscle antibody  positive
   Echo [**2148-10-14**]
   Left ventricular hypertrophy with cavity dilation and severe global
   hypokinesis. Severe aortic valve stenosis with underlying bicuspid
   aortic valve. Dilated ascending aorta. Mild pulmonary artery systolic
   hypertension.
   Assessment and Plan
   48 M with HTN, hyperlipidemia, severe AS, and tobacco abuse who was
   transferred from an OSH for further evaluation and management of his
   heart failure, aortic stenosis, and acute respiratory distress.
   .
   # PUMP:
   1) Biventricular heart failure
 Multifactorial
 likely secondary to
   severe AS, also MR, nutritional deficiency. No longer in shock, stable
   off pressors.
   - labwork pending for  scurvy,
   - hematochromatosis ruled out. Getting Vit C and MVi, Thiamine, Folate
   - Aggressive diuresis with lasix drip (neg 4L again, total 12.5 L neg)
   2) Hypertension
 has not required medical control
   # RHYTHM:
   - NSR with occasional PVCs
   # ISCHEMIA:
   Risk factors: HTN, HL
 BP well control, statin held for LFT
   abnormalities
   Will eventually need repeat Cath, CT scan, dental and valve
   replacement.
   # PULMONARY:
   1) Respiratory failure
   - Tolerating vent well, ready to extubated based on settings and RSBI
   but will wait for pulm to eval hemoptysis
   - daily CXRs, serial ABGs
   2) VAP
   - Continue Vancomycin and Zosyn
   - BCx pending
   - WBC improving but continues to have low grade temp
   3) Hemoptysis
   - unclear etiology but may be contributing to large O2 requirement.
   - will contact pulm for ? bronch
   # INFECTIOUS: Erythematous rash on shoulders, new today
   - ? secondary to drug
 will DC Vanco given no GPC.
   - no anaerobic coverage
   # HEPATIC: Liver failure/coagulopathy
 DDx: congestion, etoh induced,
   viral/infectious
   - Viral hep neg, HIV once awake
   - Hepatology following, pending alpha 1 antitrypsin, positive
   antismooth muscle Abs
   # GASTRIC
 Slowed upper GI bleed. Hct stable.  UGI showed
   gastritic/duodenitis without active bleeding and no varices.
   - transfuse for > 10 point HCT drop
   - Protonix IV BID
   # RENAL
 Improved renal function, peak Cr 1.6, now 1.1. Thought to be
   secondary to poor forward flow.
   - Monitoring [**Hospital1 **] lytes with aggressive diuresis.
   # TOXIC
 etoh abuse
   - [**Doctor Last Name **] on the CIWA scale, will need either benzo or increased
   sedation while intubated.
   # HEME
 Hct high but iron deficient.
   # FEN - NPO for now, will consider tube feeds tomorrow if still NPO,
   repleting and monitoring lytes PRN
   # PPx - Protonix IV BID, SQ heparin,  pneumoboots
   # Access: Central line ([**10-13**]), PIV
   # Code status
 full code
   # Dispo - CCU
                       Active Medications [**Known lastname 2691**],[**Known firstname **]
                      1. Furosemide 1-10 mg/hr IV DRIP
   7. Heparin 5000 UNIT SC TID
   2. Ascorbic Acid (Liquid) 504 mg PO DAILY Duration: 5
   8. Ondansetron 4 mg IV Q8H:PRN
   3. Chlorhexidine Gluconate 0.12% Oral Rinse
   9. Pantoprazole 40 mg IV Q12H
   4. Fentanyl Citrate 12.5-50 mcg/hr IV DRIP
   10. Piperacillin-Tazobactam Na 4.5 g IV Q8H
   5. Midazolam 2-4 mg/hr IV DRIP
   11. Vancomycin 1000 mg IV Q 12H
   6. FoLIC Acid 1 mg IV Q24H
   12. Multivitamins 5 mL PO DAILY
                      13. Thiamine 100 mg IV DAILY

2148-10-17 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Lasix drip continued through afternoon and then discontinued.  Vanco
   stopped for rash. Pulmonary consulted for hemoptysis, bronched -
   bronchitis, tracheal trauma, CHF only mild bloody secretions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-10-16**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2148-10-17**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-10-16**] 10:00 PM
   Pantoprazole (Protonix) - [**2148-10-17**] 12:29 AM
   Other medications:
   Fentanyl gtt
   Midazolam gtt
   Chlorhexidine mouth wash
   Zoszyn 4.5g q8hrs
   Pantoprazole 40mg IV q12hrs
   Thiamine 100mg IV
   Folic Acid
   SCH
   MVI
   Ascorbic Acid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-10-17**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 107 (70 - 111) bpm
   BP: 115/86(93) {88/59(65) - 115/86(93)} mmHg
   RR: 17 (0 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.8 kg (admission): 83.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,784 mL
                                                                    361 mL
   PO:
             TF:
   IVF:
                                                                    994 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                  4,965 mL
                                                                    365 mL
   Urine:
                                                                  4,965 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,181 mL
                                                                     -4 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: ///39/
   Ve: 11.5 L/min
   Physical Examination
   GEN: Intubated sedated
   HEENT: not able to eval
   CV: loud systolic murmur at upper sternal borders and apex. S2 only
   heard at apex. RRR
   PULM: clear
   ABD: soft, NT, ND, +BS, no HSM
   EXT: warm, petechial rash, erythematous distally with edema
   Labs / Radiology
   127 K/uL
   17.1 g/dL
   97 mg/dL
   1.4 mg/dL
   39 mEq/L
   4.3 mEq/L
   14 mg/dL
   98 mEq/L
   147 mEq/L
   50.9 %
   9.0 K/uL
        [image002.jpg]
                            [**2148-10-13**]  02:40 PM
                            [**2148-10-13**]  09:00 PM
                            [**2148-10-14**]  04:07 AM
                            [**2148-10-15**]  06:17 AM
                            [**2148-10-15**]  06:33 AM
                            [**2148-10-16**]  03:20 AM
                            [**2148-10-16**]  05:33 AM
                            [**2148-10-16**]  04:18 PM
                            [**2148-10-16**]  08:02 PM
                            [**2148-10-17**]  04:59 AM
   WBC
   9.6
   9.8
   10.7
   7.9
   8.2
   9.0
   Hct
   46.1
   45.4
   44.7
   50.8
   48.9
   49.3
   50.9
   Plt
   117
   112
   105
   115
   133
   127
   Cr
   1.1
   1.2
   1.1
   1.1
   1.0
   1.4
   TCO2
   38
   46
   Glucose
   81
   88
   91
   87
   97
   Other labs: PT / PTT / INR:14.1/28.5/1.2, CK / CKMB /
   Troponin-T:87/5/0.03, ALT / AST:130/97, Alk Phos / T Bili:114/7.2,
   Differential-Neuts:77.7 %, Lymph:10.8 %, Mono:10.6 %, Eos:0.2 %,
   Fibrinogen:216 mg/dL, Lactic Acid:3.9 mmol/L, Albumin:3.5 g/dL, LDH:296
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   48 M with HTN, hyperlipidemia, severe AS, and tobacco abuse who was
   transferred from an OSH for further evaluation and management of his
   heart failure, aortic stenosis, and acute respiratory distress.
   .
   # PUMP:
   1) Biventricular heart failure
 Multifactorial
 likely secondary to
   severe AS, also MR, nutritional deficiency. No longer in shock, stable
   off pressors.
   - labwork pending for  scurvy,
   - hematochromatosis ruled out. Getting Vit C and MVi, Thiamine, Folate
   - Aggressive diuresis with lasix drip (neg 4L again, total 12.5 L neg)
   2) Hypertension
 has not required medical control
   # RHYTHM:
   - NSR with occasional PVCs
   # ISCHEMIA:
   Risk factors: HTN, HL
 BP well control, statin held for LFT
   abnormalities
   Will eventually need repeat Cath, CT scan, dental and valve
   replacement.
   # PULMONARY:
   1) Respiratory failure
   - Tolerating vent well, ready to extubated based on settings and RSBI
   but will wait for pulm to eval hemoptysis
   - daily CXRs, serial ABGs
   2) VAP
   - Continue Vancomycin and Zosyn
   - BCx pending
   - WBC improving but continues to have low grade temp
   3) Hemoptysis
   - unclear etiology but may be contributing to large O2 requirement.
   - will contact pulm for ? bronch
   # INFECTIOUS: Erythematous rash on shoulders, new today
   - ? secondary to drug
 will DC Vanco given no GPC.
   - no anaerobic coverage
   # HEPATIC: Liver failure/coagulopathy
 DDx: congestion, etoh induced,
   viral/infectious
   - Viral hep neg, HIV once awake
   - Hepatology following, pending alpha 1 antitrypsin, positive
   antismooth muscle Abs
   # GASTRIC
 Slowed upper GI bleed. Hct stable.  UGI showed
   gastritic/duodenitis without active bleeding and no varices.
   - transfuse for > 10 point HCT drop
   - Protonix IV BID
   # RENAL
 Improved renal function, peak Cr 1.6, now 1.1. Thought to be
   secondary to poor forward flow.
   - Monitoring [**Hospital1 **] lytes with aggressive diuresis.
   # TOXIC
 etoh abuse
   - [**Doctor Last Name **] on the CIWA scale, will need either benzo or increased
   sedation while intubated.
   # HEME
 Hct high but iron deficient.
   # FEN - NPO for now, will consider tube feeds tomorrow if still NPO,
   repleting and monitoring lytes PRN
   # PPx - Protonix IV BID, SQ heparin,  pneumoboots
   # Access: Central line ([**10-13**]), PIV
   # Code status
 full code
   # Dispo - CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-10-13**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-10-18 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Art line placed yesterday, lost overnight.  Pt failed RSBI x 3
   yesterday, going 45 secs w/o resp.  This AM, RSBI of 112,.  Started
   TF.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-10-16**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2148-10-18**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-10-17**] 11:00 PM
   Pantoprazole (Protonix) - [**2148-10-18**] 02:00 AM
   Other medications:
   Fentanyl gtt
   Midazolam gtt
   Chlorhexidine mouthwash
   Zosyn 4.5g IV q8hrs
   Pantopazole 40mg q12hrs
   Thiamine 100mg IV
   Folic Acid 1mg q24hrs
   SCH
   MVI
   Ascorbic Acid (last day)
   Lopressor 12.5mg TID
   Colace
   SSI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-10-18**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 66 (65 - 88) bpm
   BP: 87/66(71) {85/56(63) - 110/87(86)} mmHg
   RR: 12 (6 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.4 kg (admission): 83.2 kg
   Height: 70 Inch
             Total In:
                                                                  3,012 mL
                                                                    401 mL
   PO:
             TF:
                                                                    130 mL
                                                                    166 mL
   IVF:
                                                                  2,362 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    140 mL
   Urine:
                                                                  1,130 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,882 mL
                                                                    261 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 112
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/58/104/39/12
   Ve: 6.8 L/min
   PaO2 / FiO2: 208
   Physical Examination
   GEN: Intubated sedated
   HEENT: not able to eval
   CV: loud systolic murmur at upper sternal borders and apex. S2 only
   heard at apex. RRR
   PULM: clear
   ABD: soft, NT, ND, +BS, no HSM
   EXT: warm, petechial rash, erythematous distally with edema
   Labs / Radiology
   15.5 g/dL
   149 K/uL
   111 mg/dL
   1.2 mg/dL
   39 mEq/L
   4.0 mEq/L
   13 mg/dL
   100 mEq/L
   146 mEq/L
   47.9 %
   8.2 K/uL
        [image002.jpg]
                            [**2148-10-16**]  03:20 AM
                            [**2148-10-16**]  05:33 AM
                            [**2148-10-16**]  04:18 PM
                            [**2148-10-16**]  08:02 PM
                            [**2148-10-17**]  04:59 AM
                            [**2148-10-17**]  01:24 PM
                            [**2148-10-17**]  05:06 PM
                            [**2148-10-17**]  05:20 PM
                            [**2148-10-18**]  04:40 AM
                            [**2148-10-18**]  06:10 AM
   WBC
   8.2
   9.0
   8.2
   Hct
   48.9
   49.3
   50.9
   47.9
   Plt
   133
   127
   149
   Cr
   1.1
   1.0
   1.4
   1.1
   1.2
   TCO2
   46
   38
   40
   41
   Glucose
   91
   87
   97
   132
   111
   Other labs: PT / PTT / INR:14.3/30.7/1.2, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:2.8 mg/dL
   AM ABG 7.44/58/104/41/12
   Yest PM ABG 7.48/52/109/40/13
   Assessment and Plan
   48 M with HTN, hyperlipidemia, severe AS, and tobacco abuse who was
   transferred from an OSH for further evaluation and management of his
   heart failure, aortic stenosis, and acute respiratory distress.
   # PUMP:
   1) Biventricular heart failure
 Multifactorial
 likely secondary to
   severe AS, also MR, nutritional deficiency.
   - hematochromatosis ruled out. Getting Vit C and MVi, Thiamine, Folate
   - Stop diuresis, with goal of even today
   2) Hypertension
 has not required medical control
   # RHYTHM:
   - NSR with occasional PVCs
   # ISCHEMIA:
   Risk factors: HTN, HL
 BP well control, statin held for LFT
   abnormalities
   Will eventually need repeat Cath, CT scan, dental and valve
   replacement.
   # PULMONARY:
   1) Respiratory failure
   - Tolerating vent well, failed three RSBI
   - daily CXRs, serial ABGs.  ABG with Alkalosis, likely sec to
   overdiuresis.  (addressed below)
   2) Hemoptysis
   - Bronch showed ET tube as likely culprit.
   - Monitor
   # INFECTIOUS:
   VAP
   - Continue Zosyn
   - BCx pending
   - WBC improving but continues to have low grade temp
   # HEPATIC: Liver failure/coagulopathy
 DDx: congestion, etoh induced,
   viral/infectious.  Viral hep neg,
   - HIV once awake
   - Hepatology following, pending alpha 1 antitrypsin, positive
   antismooth muscle Abs
   # GASTRIC
 Slowed upper GI bleed. Hct stable.  UGI showed
   gastritic/duodenitis without active bleeding and no varices.
   - transfuse for > 10 point HCT drop
   - Protonix IV BID
   # RENAL
 Improved renal function, peak Cr 1.6, now 1.1. Thought to be
   secondary to poor forward flow.
   - Monitoring [**Hospital1 **] lytes with aggressive diuresis.
   # TOXIC
 etoh abuse
   - [**Doctor Last Name **] on the CIWA scale, will need either benzo or increased
   sedation while intubated.
   # HEME
 Hct high but iron deficient
   # FEN - NPO for now, will consider tube feeds tomorrow if still NPO,
   repleting and monitoring lytes PRN
   - Hypernatemia
 1.1L FWD.  Will give D5 @ 100cc/hr for 1L; likely
   secondary to diuresis.
   # PPx - Protonix IV BID, SQ heparin,  pneumoboots
   # Access: Central line ([**10-13**]), PIV
   # Code status
 full code
   # Dispo - CCU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2148-10-17**] 05:00 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-10-13**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2148-10-19 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 48 M with HTN, hyperlipidemia, severe AS, and tobacco
   abuse who was transferred from an OSH for further evaluation and
   management of his heart failure, aortic stenosis, and acute respiratory
   distress.
   24 Hour Events:
   Started on diamox per pulm recs to improve resp drive by reducing
   alkalosis.  Plan to attempt extubation in AM with ativan boluses.
   Patient removed OG tube, replaced.  Patient removed A-line, replaced.
   CSurg recs: Dental c/s&panorex, R&L heart cath, CTAbd ww/o contrast,
   carotid U/S.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-10-16**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2148-10-19**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-10-18**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2148-10-18**] 10:00 PM
   Other medications:
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 53 (53 - 122) bpm
   BP: 104/57(74) {80/43(57) - 115/69(86)} mmHg
   RR: 10 (10 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.4 kg (admission): 83.2 kg
   Height: 70 Inch
   Total In:
                                                                  1,221 mL
                                                                    268 mL
   PO:
   TF:
                                                                    423 mL
                                                                     70 mL
   IVF:
                                                                    688 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                    772 mL
                                                                    720 mL
   Urine:
                                                                    772 mL
                                                                    710 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    449 mL
                                                                   -452 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/58/193//10
   Ve: 5.5 L/min
   PaO2 / FiO2: 483
   Physical Examination
   GEN: Intubated sedated
   HEENT: not able to eval
   CV: loud systolic murmur at upper sternal borders and apex. S2 only
   heard at apex. RRR
   PULM: diffuse rhonch with ET tube noise.
   ABD: soft, NT, ND, +BS, no HSM
   EXT: warm, petechial rash resolving, erythematous distally with edema
   Labs / Radiology
   147 K/uL
   15.0 g/dL
   111 mg/dL
   1.2 mg/dL
   39 mEq/L
   4.0 mEq/L
   13 mg/dL
   100 mEq/L
   146 mEq/L
   45.4 %
   8.1 K/uL
        [image002.jpg]
                            [**2148-10-16**]  04:18 PM
                            [**2148-10-16**]  08:02 PM
                            [**2148-10-17**]  04:59 AM
                            [**2148-10-17**]  01:24 PM
                            [**2148-10-17**]  05:06 PM
                            [**2148-10-17**]  05:20 PM
                            [**2148-10-18**]  04:40 AM
                            [**2148-10-18**]  06:10 AM
                            [**2148-10-19**]  05:16 AM
                            [**2148-10-19**]  05:46 AM
   WBC
   9.0
   8.2
   8.1
   Hct
   49.3
   50.9
   47.9
   45.4
   Plt
   127
   149
   147
   Cr
   1.0
   1.4
   1.1
   1.2
   TCO2
   38
   40
   41
   38
   Glucose
   87
   97
   132
   111
   Other labs: PT / PTT / INR:14.3/30.7/1.2, CK / CKMB /
   Troponin-T:87/5/0.03, ALT / AST:130/97, Alk Phos / T Bili:114/7.2,
   Differential-Neuts:77.7 %, Lymph:10.8 %, Mono:10.6 %, Eos:0.2 %,
   Fibrinogen:216 mg/dL, Lactic Acid:3.9 mmol/L, Albumin:3.5 g/dL, LDH:296
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   48 M with HTN, hyperlipidemia, severe AS, and tobacco abuse who was
   transferred from an OSH for further evaluation and management of his
   heart failure, aortic stenosis, and acute respiratory distress.
   # PUMP:
   1) Biventricular heart failure
 Multifactorial
 likely secondary to
   severe AS, also MR, nutritional deficiency.
   - hematochromatosis ruled out. Getting Vit C and MVi, Thiamine, Folate
   - No diuresis
   2) Hypertension
 has not required medical control
   # RHYTHM:
   - NSR with occasional PVCs
   # ISCHEMIA:
   Risk factors: HTN, HL
 BP well control, statin held for LFT
   abnormalities
   Will eventually need repeat Cath, CT scan, dental and valve
   replacement.
   # PULMONARY:
   1) Respiratory failure
   - Tolerating vent well, failed three RSBI yesterday.  RSBI 112 this AM,
   but patient has elevated HR and BP with stopping Midazolam.
   - daily CXRs, serial ABGs.  ABG with Alkalosis, likely sec to
   overdiuresis.
   2) Hemoptysis, resolved.
   - Bronch showed ET tube as likely culprit.
   - Monitor
   # INFECTIOUS:
   VAP
   - Continue Zosyn
   - BCx pending
   - WBC improving but continues to have low grade temp
   # HEPATIC: Resolved.  Liver failure/coagulopathy
   # GASTRIC
 Stable.  Had upper GI bleed on presentation Hct stable.
   UGI showed gastritic/duodenitis without active bleeding and no varices.
   - transfuse for > 10 point HCT drop
   - Protonix IV BID
   # RENAL
 Improved renal function, peak Cr 1.6, now 1.2. Thought to be
   secondary to poor forward flow.
   -          Monitoring [**Hospital1 **] lytes
   -          No [**Last Name (LF) 2788**], [**First Name3 (LF) 124**] add free water to TF
   -
   # TOXIC
 etoh abuse
   -Continue CIWA, benzo or increased sedation while intubated.
   # HEME
 Hct high but iron deficient
   # FEN
 Tube feeds with free water.  No further diuresis.
   # PPx - Protonix IV BID, SQ heparin,  pneumoboots
   # Access: Central line ([**10-13**]), [**Last Name (LF) 1403**], [**First Name3 (LF) **] ([**10-18**])
   # Code status
 full code
   # Dispo - CCU
                       Active Medications [**Known lastname 2691**],[**Known firstname **]
                 1. Piperacillin-Tazobactam Na 4.5 g IV Q8H
   9. Metoprolol Tartrate 12.5 mg PO TID
   2. AcetaZOLamide 250 mg PO Q6H Duration: 2 Days
   10. Insulin SC  (per Insulin Flowsheet)
   3. Midazolam 2-4 mg/hr IV DRIP
   11. Ondansetron 4 mg IV Q8H:PRN Nausea
   4. Fentanyl Citrate 12.5-50 mcg/hr IV DRIP
   12. Pantoprazole 40 mg IV Q12H
   5. Thiamine 100 mg IV DAILY
   13. Heparin 5000 UNIT SC TID
   6. FoLIC Acid 1 mg IV Q24H
   14. Senna 1 TAB PO BID:PRN
   7. Multivitamins 5 mL PO DAILY
   15. Docusate Sodium (Liquid) 100 mg PO BID
   8. Ascorbic Acid (Liquid) 504 mg PO DAILY

2148-10-20 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 48 M with HTN, hyperlipidemia, severe AS, and tobacco
   abuse who was transferred from an OSH for further evaluation and
   management of his heart failure, aortic stenosis, and acute respiratory
   distress.
   24 Hour Events:
   Altered mental status (not Delirium)
   Assessment:
   Pt remains confused, lethargic, agitated. Speaking in slurred speech if
   at all and difficult to understand . Inconsistently answering questions
   and mostly not making sense.
   Action:
   Constantly attempting to reorient to place, time, person. Not aware of
   place or time nor person in spite of orientation attempts. Pt given
   haldol 2 mg IVP x 2 middle of nite for extreme persistant agitation
   since 1:30am.
   Up to this point this shift, pt had been more lethargic than agitated.
   Response:
   Not much result as all from haldol dose. Pt continues to need constant
   supervision, rearranging and bilateral wrist restraints for safety.
   Frequent thrashing in bed, adding pillows and more cushioning to
   provide safety as well. Agitation level appears to be worsening over
   course of shift instead of clearing. Neuro exam unchanged,
   Plan:
   Continue to monitor ? psych consult if doesn
t clear. Follow ABG/Temps
   as possible sources of worsened mental status. Wrist restraints,
   safety. Continue to attempt to reorient. Keep family aware of plan of
   care, current situation. Continue to follow lytes/LFT
   Respiratory failure, acute (not ARDS/[**Doctor Last Name 76**])
   Assessment:
   Pt extubated s/p many days of intubation, fair respiratory status
   currently.
   Action:
   Pt on 40% face tent, continues on diamox q 6 hours, with fair to
   minimal urine output. Continues on antibx for aspiration PNA-
   aspiration precautions continue.
   Response:
   Pt continues to have tachypnea, periods of apnea and miuch rhonchi. One
   episode of turning purple while laying flat to turn side to side. CXR
   revealed improving pulm edema and PNA.. Strong nonproductive cough.
   Much rhonchi lung sounds. Resp status appears more distressed over
   course of shift. ABG wnl as well as CXR improving.
   Plan:
   Continue antibx, and diamox for diuresis/correction of alkalosis.
   Adjust o2 to match o2 requirment. Gentle CPT if pt mental status allows
   for it. Oral care/sx as able again d/t pt mental status.
   Fever (Hyperthermia, Pyrexia, not Fever of Unknown Origin)
   Assessment:
   Pt with low grade temp with known PNA
   Action:
   Continues on antibx, Tylenol x 2 doses this shift. Given 250NS bolus
   for some hypovolemia d/t large diuresis- perhaps adding to ST 110-120
   in addition to low grade temp/agitation. Put on d5 125cc/hour for
   persistant Na-148-147 for free water allowance and hydration in setting
   of temp/diuresis and loss of fluid thru diaphoresis.
   Response:
   T MAX- 100 PR. No fever spike but pt appears warm and diaphoretic all
   of shift.
   Plan:
   Continue to monitor for fever- pan culture again if spikes again,
   continue Tylenol and antibx.
   Continue to hydrate, bolus as needed. Watch lytes- replete as needed
   and /or treat Na with free water.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-10-19**] 08:17 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-10-19**] 10:55 PM
   Pantoprazole (Protonix) - [**2148-10-19**] 10:56 PM
   Other medications:
   Flowsheet Data as of  [**2148-10-20**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.8
   HR: 116 (53 - 120) bpm
   BP: 143/122(131) {99/51(68) - 143/122(131)} mmHg
   RR: 32 (10 - 34) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.4 kg (admission): 83.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,308 mL
                                                                    866 mL
   PO:
             TF:
                                                                     70 mL
   IVF:
                                                                  1,118 mL
                                                                    866 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    420 mL
   Urine:
                                                                  1,940 mL
                                                                    420 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                   -642 mL
                                                                    446 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 14 cmH2O
   Plateau: 11 cmH2O
   Compliance: 500 cmH2O/mL
   SpO2: 89%
   ABG: 7.41/44/120/27/3
   Ve: 5.8 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Lungs clear, tachypneic/apneic.
   Labs / Radiology
   196 K/uL
   16.3 g/dL
   160 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   17 mg/dL
   110 mEq/L
   148 mEq/L
   50.2 %
   9.6 K/uL
        [image002.jpg]
                            [**2148-10-17**]  05:06 PM
                            [**2148-10-17**]  05:20 PM
                            [**2148-10-18**]  04:40 AM
                            [**2148-10-18**]  06:10 AM
                            [**2148-10-19**]  05:16 AM
                            [**2148-10-19**]  05:46 AM
                            [**2148-10-19**]  06:52 AM
                            [**2148-10-19**]  04:55 PM
                            [**2148-10-20**]  01:37 AM
                            [**2148-10-20**]  02:09 AM
   WBC
   8.2
   8.1
   9.6
   Hct
   47.9
   45.4
   50.2
   Plt
   149
   147
   196
   Cr
   1.1
   1.2
   1.1
   1.2
   TCO2
   40
   41
   38
   38
   34
   29
   Glucose
   132
   111
   97
   160
   Other labs: PT / PTT / INR:14.6/29.2/1.3, CK / CKMB /
   Troponin-T:87/5/0.03, ALT / AST:83/88, Alk Phos / T Bili:136/5.9,
   Differential-Neuts:77.7 %, Lymph:10.8 %, Mono:10.6 %, Eos:0.2 %,
   Fibrinogen:216 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:492
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   48 M with HTN, hyperlipidemia, severe AS, and tobacco abuse who was
   transferred from an OSH for further evaluation and management of his
   heart failure, aortic stenosis, and acute respiratory distress.
   # PUMP:  Biventricular heart failure
 Multifactorial
 likely
   secondary to severe AS, also MR, nutritional deficiency.
   - started IVF to replace diuresed fluid and hopefully correct
   tachycardia
   - on BB, holding statin for elevated LFTs
   - plan for surgery for valve after pt cleared pre-op (CT scan, dental,
   cath, mental and respiratory status)
   # RHYTHM:
   - NSR with occasional PVCs
   # PULMONARY:
   [**First Name4 (NamePattern1) 2822**] [**Last Name (NamePattern1) **] breathing since extubated in AM
 thought to be
   toxic/metabolic but unclear why meds are not being adequately cleared
   (renal and hepatic function adequate).
   Hemoptysis, thought to be due to ET trauma. Still bloody when
   suctioned.
   VAP- Zosyn day 7 today, BCx (day 6)
   - BCx neg [**10-13**], pending since then
   - WBC up to 9 from 8, continues to have low grade temp of 99 on q4
   tylenol
   # HEPATIC: LFTs were trending down, thought to be due to congestion
   - will lower limit of Tylenol daily
   - Rechecked LFTs slightly improved, notable for elevated T Bili, D bili
   pending.
   - ? etoh or liver disease preventing clearance of haldol/ativan
   # GASTRIC
 Protonix IV BID
   # RENAL
 Stable with current fluid balance
   # TOXIC
 unclear why pt so sedated, neuro exam nonfocal.
   - Versed, Fentanyl, Haldol and Ativan do not interact with each other
   but are all substrates of CYP450 3A4.  Chronic etoh use can lower
   CYP450 even without altering liver function.
   # FEN
 NPO, D5W IVF @ 125, lytes prn
   # PPx - Protonix IV BID, SQ heparin,  pneumoboots
   # Access: Central line ([**10-13**]), [**Last Name (LF) 1403**], [**First Name3 (LF) **] ([**10-18**])
   # Code status
 full code
   # Dispo - CCU
                       Active Medications [**Known lastname 2691**],[**Known firstname **]
                 1. Piperacillin-Tazobactam Na 4.5 g IV Q8H
   9. Metoprolol Tartrate 12.5 mg PO TID
   2. AcetaZOLamide 250 mg PO Q6H Duration: 2 Days
   10. Insulin SC  (per Insulin Flowsheet)
   3. Thiamine 100 mg IV DAILY
   11. Ondansetron 4 mg IV Q8H:PRN Nausea
   4. FoLIC Acid 1 mg IV Q24H
   12. Pantoprazole 40 mg IV Q12H
   5. Multivitamins 5 mL PO DAILY
   13. Heparin 5000 UNIT SC TID
   6. Ascorbic Acid (Liquid) 504 mg PO DAILY
   14. Senna 1 TAB PO BID:PRN
   7. Haldol 2mg IV PRN
   15. Docusate Sodium (Liquid) 100 mg PO BID

2148-10-21 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Decompensated
   CHF
   24 Hour Events:
   Patient had several episodes of agitation throughout day, controlled
   with Halolol IV.  This AM, patient had coughed up large mucus plug,
   agitation has been resolved since.
   Pulmonary recommended continuation of diamox.  Pt received D5 and was
   switched to
 NS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-10-21**] 04:27 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-10-20**] 08:48 AM
   Haloperidol (Haldol) - [**2148-10-20**] 11:33 PM
   Pantoprazole (Protonix) - [**2148-10-21**] 12:35 AM
   Metoprolol - [**2148-10-21**] 04:28 AM
   Other medications:
   SSI
   Zosyn 4.5g q8hrs
   Pantoprazole 40mg q12hrs
   Thiamine 100mg IV
   Folic Acid 1mg IV q24
   MVI
   Colace 100mg [**Hospital1 **]
   Lopressor 7.5mg IV q4hrs
   Acetazolamide 250mg IV q6hrs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-10-21**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.6
   HR: 86 (86 - 111) bpm
   BP: 98/72(78) {98/66(78) - 142/94(103)} mmHg
   RR: 20 (11 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.4 kg (admission): 83.2 kg
   Height: 70 Inch
             Total In:
                                                                  4,126 mL
                                                                    940 mL
   PO:
             TF:
   IVF:
                                                                  4,126 mL
                                                                    940 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    310 mL
   Urine:
                                                                  1,130 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,996 mL
                                                                    630 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   GEN: Intubated sedated
   HEENT: not able to eval
   CV: loud systolic murmur at upper sternal borders and apex. S2 only
   heard at apex. RRR
   PULM: CTA B
   ABD: soft, NT, ND, +BS, no HSM
   EXT: warm, petechial rash resolving, erythematous distally with edema
   Labs / Radiology
   [**2148-10-17**]  05:20 PM
                            [**2148-10-18**]  04:40 AM
                            [**2148-10-18**]  06:10 AM
                            [**2148-10-19**]  05:16 AM
                            [**2148-10-19**]  05:46 AM
                            [**2148-10-19**]  06:52 AM
                            [**2148-10-19**]  04:55 PM
                            [**2148-10-20**]  01:37 AM
                            [**2148-10-20**]  02:09 AM
                            [**2148-10-20**]  04:05 PM
   WBC
   8.2
   8.1
   9.6
   Hct
   47.9
   45.4
   50.2
   Plt
   149
   147
   196
   Cr
   1.2
   1.1
   1.2
   1.1
   TCO2
   40
   41
   38
   38
   34
   29
   Glucose
   111
   97
   160
   153
   Other labs: PT / PTT / INR:14.6/29.2/1.3, CK / CKMB /
   Troponin-T:87/5/0.03, ALT / AST:83/88, Alk Phos / T Bili:136/5.9,
   Differential-Neuts:77.7 %, Lymph:10.8 %, Mono:10.6 %, Eos:0.2 %,
   Fibrinogen:216 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:492
   IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   48 M with HTN, hyperlipidemia, severe AS, and tobacco abuse who was
   transferred from an OSH for further evaluation and management of his
   heart failure, aortic stenosis, and acute respiratory distress.
   # PUMP:
   1) Biventricular heart failure
 Multifactorial
 likely secondary to
   severe AS, also MR, nutritional deficiency.
   - hematochromatosis ruled out. Getting Vit C (level still pending) and
   MVi, Thiamine, Folate
   - No diuresis (no sign of hypervolemia, if anything dry since
   tachycardic and diuresed 12.3 L neg for LOS)
   2) Hypertension
 on BB
   # RHYTHM:
   - NSR with occasional PVCs
   # ISCHEMIA:
   Risk factors: HTN, HL
 BP on BB, statin held for LFT abnormalities
   Will eventually need repeat Cath, CT scan, dental and valve
   replacement.
   # PULMONARY:
   1) Respiratory failure
 unable to extubate yest due to
   over/undersedation. Plan due lower PEEP, recheck ABG and RSBi, then
   lower sedation with prn Haldol (QT ok) and extubate today.
   - Continue diamox to alkalize and stimulate resp
   2) Hemoptysis, resolved.
   - Bronch showed ET tube as likely culprit.
   # INFECTIOUS:
   VAP
   - Continue Zosyn (day 7)
   - BCx pending
   - WBC improving but continues to have low grade temp
   # HEPATIC: LFTs were trending down, thought to be due to congestion
   # GASTRIC
 Stable.  Had upper GI bleed on presentation Hct stable.
   UGI showed gastritic/duodenitis without active bleeding and no varices.
   - Protonix IV BID
   # RENAL
 Improved renal function, peak Cr 1.6, now 1.1.
   # TOXIC
 etoh abuse
   -Continue CIWA.
   # FEN
 NPO to extubate
   # PPx - Protonix IV BID, SQ heparin,  pneumoboots
   # Access: Central line ([**10-13**]), [**Last Name (LF) 1403**], [**First Name3 (LF) **] ([**10-18**])
   # Code status
 full code
   # Dispo - CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-10-13**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-10-22 04:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Diet advanced.  Very agitated overnight.  Continues with [**Last Name (un) 631**]-[**Doctor Last Name 632**]
   breathing (as CT nl, likely [**12-30**] HF).  ABG, CXR w/n/l.  Treated with
   Haldol.  Lactate rising.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-10-21**] 04:27 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2148-10-21**] 10:20 AM
   Haloperidol (Haldol) - [**2148-10-21**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2148-10-22**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-10-22**] 04:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 92 (84 - 106) bpm
   BP: 88/73(77) {86/64(72) - 119/90(184)} mmHg
   RR: 21 (16 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.4 kg (admission): 83.2 kg
   Height: 70 Inch
    CVP: 22 (17 - 30)mmHg
   Total In:
                                                                  2,811 mL
                                                                    441 mL
   PO:
                                                                  1,040 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  1,771 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                    716 mL
                                                                    200 mL
   Urine:
                                                                    716 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,095 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.42/36/112/25/0
   PaO2 / FiO2: #Division by zero#
   Physical Examination
   HEENT: Sclera icteric
   CV: loud systolic murmur at upper sternal borders and apex. RRR
   PULM: CTA B
   ABD: soft, NT, ND, +BS, no HSM
   EXT: warm, petechial rash resolving, erythematous distally with edema
   Labs / Radiology
   180 K/uL
   14.0 g/dL
   105 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.3 mEq/L
   23 mg/dL
   108 mEq/L
   142 mEq/L
   43.7 %
   9.9 K/uL
        [image002.jpg]
                            [**2148-10-19**]  05:16 AM
                            [**2148-10-19**]  05:46 AM
                            [**2148-10-19**]  06:52 AM
                            [**2148-10-19**]  04:55 PM
                            [**2148-10-20**]  01:37 AM
                            [**2148-10-20**]  02:09 AM
                            [**2148-10-20**]  04:05 PM
                            [**2148-10-21**]  06:06 AM
                            [**2148-10-21**]  04:01 PM
                            [**2148-10-21**]  06:11 PM
   WBC
   8.1
   9.6
   9.9
   Hct
   45.4
   50.2
   43.7
   Plt
   147
   196
   180
   Cr
   1.1
   1.2
   1.1
   1.2
   1.2
   TCO2
   38
   38
   34
   29
   24
   Glucose
   97
   160
   153
   105
   Other labs: PT / PTT / INR:14.6/29.2/1.3, CK / CKMB /
   Troponin-T:87/5/0.03, ALT / AST:71/70, Alk Phos / T Bili:104/5.3,
   Differential-Neuts:77.7 %, Lymph:10.8 %, Mono:10.6 %, Eos:0.2 %,
   Fibrinogen:216 mg/dL, Lactic Acid:3.2 mmol/L, Albumin:3.3 g/dL, LDH:492
   IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Micro: NGTD
   CXR: No substantial change since the radiograph of one day earlier,
   with marked cardiomegaly and persistent retrocardiac left lower lobe
   opacity, but no evidence of pulmonary edema.
   Head CT: No acute intracranial process.
   Assessment and Plan
   48 M with HTN, hyperlipidemia, severe AS, and tobacco abuse who was
   transferred from an OSH for further evaluation and management of his
   heart failure, aortic stenosis, and acute respiratory distress.
   # INFECTIOUS:  Improving.
   Pneumonia
   - discontinue Zosyn (day 7)
   - BCx pending
   - WBC improving but continues to have low grade temp
   # PUMP:
   1) Biventricular heart failure
 Multifactorial
 likely secondary to
   severe AS, also MR, nutritional deficiency.
   - Continue MVi, Thiamine, Folate
   - No diuresis (no sign of hypervolemia, if anything dry since
   tachycardic and diuresed 12.3 L neg for LOS)
   - Patient has S2 present, indicative of his improvement.
   2) Hypertension
 on BB
   # RHYTHM:
   - NSR with occasional PVCs
   # ISCHEMIA:
   Risk factors: HTN, HL
 BP on BB, statin held for LFT abnormalities
   Will eventually need repeat Cath, CT scan, dental and valve
   replacement.
   # PULMONARY:
   Respiratory failure
 Resolved, extubated with [**Last Name (un) **] [**Doctor Last Name **]
   breathing.  prn Haldol for agitation.
   - Continue diamox (last day) to alkalize and stimulate resp
   # HEPATIC: LFTs were trending down, thought to be due to congestion and
   h/o liver disease.
   # GASTRIC
 Stable.  Had upper GI bleed on presentation Hct stable.
   UGI showed gastritic/duodenitis without active bleeding and no varices.
   - Protonix IV BID
   # ACUTE RENAL INSUFFICIENCY
 Improved renal function, peak Cr 1.6, now
   1.2.
   # TOXIC
 etoh abuse
   -Restart CIWA when needed.
   # FEN
 Speech and swallow today
   # PPx - Protonix IV BID, SQ heparin,  pneumoboots
   # Access: Central line ([**10-13**]), PIV
   # Code status
 full code
   # Dispo - CCU
   1. IV access: Temporary central access (ICU) Location: Left Internal
   Jugular, Date inserted: [**2148-10-13**] Order date: [**10-13**] @ 0309
   10. Multivitamins 1 TAB PO DAILY  Order date: [**10-21**] @ 1400
   2. Acetaminophen 325-650 mg PO/PR Q6H:PRN  Order date: [**10-19**] @ 2340
   11. Olanzapine (Disintegrating Tablet) 10 mg PO ONCE Duration: 1 Doses
   Order date: [**10-21**] @ 2046
   3. Docusate Sodium (Liquid) 100 mg PO BID  Order date: [**10-17**] @ 1320
   12. Ondansetron 4 mg IV Q8H:PRN Nausea  Order date: [**10-12**] @ 2031
   4. FoLIC Acid 1 mg PO DAILY  Order date: [**10-21**] @ 1400
   13. Pantoprazole 40 mg PO Q12H  Order date: [**10-21**] @ 1400
   5. Haloperidol 1 mg IV ONCE MR1 Duration: 1 Doses Order date: [**10-21**] @
   1758
   14. Potassium Chloride 20 mEq / 50 ml SW IV X3  Order date: [**10-19**] @
   0644
   6. Haloperidol 1 mg IV ONCE agitation Duration: 1 Doses
   all ready Given at 9 pm  Order date: [**10-21**] @ 2208
   15. Potassium Chloride 20 mEq / 50 ml SW IV X3  Order date: [**10-20**] @
   [**2077**]
   7. Heparin 5000 UNIT SC TID  Order date: [**10-13**] @ 0906
   16. Senna 1 TAB PO BID:PRN  Order date: [**10-17**] @ 1010
   8. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**10-17**] @ 1715
   17. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**10-13**] @ 0309
   9. Metoprolol Tartrate 37.5 mg PO TID
   Hold for HR < 60, SBP < 100  Order date: [**10-21**] @ 1400
   18. Thiamine 100 mg PO DAILY  Order date: [**10-21**] @ 1400

2148-10-23 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 48 M with HTN, hyperlipidemia, severe AS, and tobacco
   abuse who was transferred from an OSH for further evaluation and
   management of his heart failure, aortic stenosis, and acute respiratory
   distress.
   24 Hour Events:
   No events, awaiting mental status to clear up so can undergo pre-op
   studies.
   Got total 20mg of zydis but still did not sleep.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-10-21**] 04:27 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-10-22**] 09:00 AM
   Pantoprazole (Protonix) - [**2148-10-22**] 02:30 PM
   Other medications:
   Flowsheet Data as of  [**2148-10-23**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.4
   HR: 84 (78 - 113) bpm
   BP: 122/62(86) {88/59(21) - 132/92(120)} mmHg
   RR: 17 (14 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.4 kg (admission): 83.2 kg
   Height: 70 Inch
    CVP: 17 (17 - 36)mmHg
   Total In:
                                                                  1,550 mL
                                                                    200 mL
   PO:
                                                                  1,240 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    310 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    220 mL
   Urine:
                                                                    980 mL
                                                                    220 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    370 mL
                                                                    -20 mL
   Physical Examination
   GEN: NAD
   HEENT: Sclera icteric
   CV: loud systolic murmur at upper sternal borders and apex. RRR
   PULM: CTA B
   ABD: soft, NT, ND, +BS, no HSM
   EXT: warm, petechial rash resolving, erythematous distally with edema
   NEURO: A+Ox3.
   Labs / Radiology
   238 K/uL
   13.4 g/dL
   109 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.6 mEq/L
   22 mg/dL
   108 mEq/L
   142 mEq/L
   40.2 %
   10.8 K/uL
        [image002.jpg]
                            [**2148-10-19**]  06:52 AM
                            [**2148-10-20**]  02:09 AM
                            [**2148-10-20**]  04:05 PM
                            [**2148-10-21**]  06:06 AM
                            [**2148-10-21**]  04:01 PM
                            [**2148-10-21**]  06:11 PM
                            [**2148-10-22**]  04:29 AM
                            [**2148-10-23**]  04:00 AM
   WBC
   9.6
   9.9
   11.3
   10.8
   Hct
   50.2
   43.7
   40.7
   40.2
   Plt
   196
   180
   205
   238
   Cr
   1.2
   1.1
   1.2
   1.2
   1.1
   1.0
   TCO2
   38
   24
   Glucose
   160
   153
   105
   118
   109
   Other labs: PT / PTT / INR:15.1/27.5/1.3, CK / CKMB /
   Troponin-T:87/5/0.03, ALT / AST:74/67, Alk Phos / T Bili:159/4.4,
   Differential-Neuts:77.7 %, Lymph:10.8 %, Mono:10.6 %, Eos:0.2 %,
   Fibrinogen:216 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL, LDH:492
   IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan:
   48 M with HTN, hyperlipidemia, severe AS, and tobacco abuse who was
   transferred from an OSH for further evaluation and management of his
   heart failure, aortic stenosis, and acute respiratory distress.
   # RESPIRATORY:
   - Extubated, now without [**Last Name (un) **] [**Doctor Last Name **] breathing.  Attributed to
   patient
s CHF and toxic metabolic given multiple sedative meds in
   setting of chronic etoh abuse. CT head negative.
   - Weaning O2
   # PUMP:
   1) Biventricular heart failure
 Multifactorial
 likely secondary to
   severe AS, also MR, nutritional deficiency (confirmed Vit C
   deficiency).
   - Continue MVi, Thiamine, Folate
   - s/p Vit C repletion (5 days), needs maintenance repletion
   - Patient has S2 present, indicative of his improvement. (Initially
   unable to hear heart sounds, just murmur)
   2) Hypertension
 on BB, hold ace for now given dependency on preload.
   #AGITATION:
   Patient continues to have episodes of agitation, resolved with Haldol
   and Zydis prn.  [**Month (only) 8**] be related to patient not clearing Benzo/Fentanyl
   in light of his liver issues.
   - Continue Zydis or Haldol prn
   # RHYTHM:
   - NSR with occasional PVCs
   # ISCHEMIA:
   Risk factors: HTN, HL
 BP on BB, statin held for LFT abnormalities
   Will eventually need repeat Cath, CT scan, dental and valve
   replacement.
   #ID
   - Pneumonia resolved s/p 7 day course of Zosyn.
   - WBC stable, afebrile but diaphoretic
   - BCx without growth
   # HEPATIC: LFTs were trending down, thought to be due to congestion and
   h/o liver disease.
   - will check ammonia and ? lactulose (stooling multiple times daily, C
   Diff sent)
   # GASTRIC
 Stable.  Had upper GI bleed on presentation Hct stable.
   UGI showed gastritic/duodenitis without active bleeding and no varices.
   - Protonix PO BID
   - C Diff sent for increased stool frequency.
   # ACUTE RENAL INSUFFICIENCY
 Resolved with free water.  Patient now
   taking po
s.  Cr 1.1
   # TOXIC
 etoh abuse. No need for CIWA anymore.
   # FEN
 Cardiac Diet
   # PPx - Protonix PO BID, SQ heparin, pneumoboots
   # Access: Now with 2 PIVs, OK to pull CVL.
   # Code status
 full code
   # Dispo
 CCU
                       Active Medications [**Known lastname 2691**],[**Known firstname **]
                    1. Metoprolol Tartrate 37.5 mg PO TID
   7. Ondansetron 4 mg IV Q8H:PRN Nausea
   2. Heparin 5000 UNIT SC TID
   8. Pantoprazole 40 mg PO Q12H  Order date: [**10-21**] @ 1400
   3. Insulin SC  (per Insulin Flowsheet)
   9. Senna 1 TAB PO BID:PRN
   4. FoLIC Acid 1 mg PO DAILY
   10. Acetaminophen 325-650 mg PO/PR Q6H:PRN
   5. Multivitamins 1 TAB PO DAILY
   11. Docusate Sodium (Liquid) 100 mg PO BID
   6. Thiamine 100 mg PO DAILY

2148-10-24 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 48 M with HTN, hyperlipidemia, severe AS, and tobacco
   abuse who was transferred from an OSH for further evaluation and
   management of his heart failure, aortic stenosis, and acute respiratory
   distress.
   24 Hour Events:
   CVL removed
   Increased his BB to 50mg.
   TELE:
   SUBJ:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-10-24**] 12:00 AM
   Pantoprazole (Protonix) - [**2148-10-24**] 12:00 AM
   Other medications:
   Flowsheet Data as of  [**2148-10-24**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96.1
   HR: 99 (75 - 99) bpm
   BP: 119/88(95) {98/66(45) - 132/93(102)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.4 kg (admission): 83.2 kg
   Height: 70 Inch
                  Total In:
                                                                  1,590 mL
                                                                    240 mL
   PO:
                                                                  1,490 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    673 mL
                                                                    161 mL
   Urine:
                                                                    673 mL
                                                                    161 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    917 mL
                                                                     79 mL
   Physical Examination
   GEN: NAD
   HEENT: Sclera icteric
   CV: loud systolic murmur at upper sternal borders and apex. RRR
   PULM: CTA B
   ABD: soft, NT, ND, +BS, no HSM
   EXT: warm, petechial rash resolving, erythematous distally with edema
   NEURO: A+Ox3.
   Labs / Radiology
   275 K/uL
   14.4 g/dL
   117 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   22 mg/dL
   113 mEq/L
   143 mEq/L
   41.7 %
   9.1 K/uL
        [image002.jpg]
                            [**2148-10-19**]  04:55 PM
                            [**2148-10-20**]  01:37 AM
                            [**2148-10-20**]  02:09 AM
                            [**2148-10-20**]  04:05 PM
                            [**2148-10-21**]  06:06 AM
                            [**2148-10-21**]  04:01 PM
                            [**2148-10-21**]  06:11 PM
                            [**2148-10-22**]  04:29 AM
                            [**2148-10-23**]  04:00 AM
                            [**2148-10-24**]  04:10 AM
   WBC
   9.6
   9.9
   11.3
   10.8
   9.1
   Hct
   50.2
   43.7
   40.7
   40.2
   41.7
   Plt
   196
   180
   205
   238
   275
   Cr
   1.2
   1.1
   1.2
   1.2
   1.1
   1.0
   0.9
   TCO2
   34
   29
   24
   Glucose
   160
   153
   105
   118
   109
   117
   Other labs: PT / PTT / INR:15.1/27.5/1.3, CK / CKMB /
   Troponin-T:87/5/0.03, ALT / AST:77/75, Alk Phos / T Bili:201/4.1,
   Differential-Neuts:77.7 %, Lymph:10.8 %, Mono:10.6 %, Eos:0.2 %,
   Fibrinogen:216 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL, LDH:494
   IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan:
   48 M with HTN, hyperlipidemia, severe AS, and tobacco abuse who was
   transferred from an OSH for further evaluation and management of his
   heart failure, aortic stenosis, and acute respiratory distress.
   # PUMP:
   1) Biventricular heart failure
 Multifactorial
 likely secondary to
   severe AS, also MR, nutritional deficiency (confirmed Vit C
   deficiency).
   - Continue MVi, Thiamine, Folate
   - s/p Vit C repletion (5 days), now on maintenance repletion
   - Patient has S2 present, indicative of his improvement. (Initially
   unable to hear heart sounds, just murmur)
   - restarting home PO Lasix regimen
   2) Hypertension
 on BB, hold ace for now given dependency on preload.
   # RHYTHM:
   - NSR with occasional PVCs
   # ISCHEMIA:
   Risk factors: HTN, HL
 BP on BB, statin held for LFT abnormalities
   Will eventually need repeat Cath, CT scan, carotid ultrasound, dental
   prior to valve replacement
 will try to get some today.
   - if not a surgical candidate can consider valvuloplasty as temporary
   solution.
   # RESPIRATORY:
   - Extubated, now without [**Last Name (un) **] [**Doctor Last Name **] breathing.  Attributed to
   patient
s CHF and toxic metabolic given multiple sedative meds in
   setting of chronic etoh abuse. CT head negative.
   - Weaning O2
   #AGITATION:
   Patient continues to have episodes of agitation, resolved with Haldol
   and Zydis prn.  [**Month (only) 8**] be related to patient not clearing Benzo/Fentanyl
   in light of his liver issues.
   - Continue Zydis or Haldol prn
   #ID
   - Pneumonia resolved s/p 7 day course of Zosyn.
   - WBC stable, afebrile but diaphoretic
   - BCx and UCx all without growth, will recheck UA
   # HEPATIC: LFTs stable at slightly elevated, thought to be due to
   congestion and h/o liver disease.
   - Will recheck ultrasound, given plateaued LFTs and prior [**Location (un) 118**] of
   sludge.
   - Ammonia 31
   # GASTRIC
 Stable.  Had upper GI bleed on presentation Hct stable.
   UGI showed gastritic/duodenitis without active bleeding and no varices.
   - Protonix PO BID
   - C Diff neg x 1
   # ACUTE RENAL INSUFFICIENCY
 Resolved with free water.  Patient now
   taking po
s.  Cr 1.1
   # TOXIC
 etoh abuse. No need for CIWA anymore.
   # FEN
 Cardiac Diet
   # PPx - Protonix PO BID, SQ heparin, pneumoboots
   # Access: Now with 2 PIVs, OK to pull CVL.
   # Code status
 full code
   # Dispo
 CCU
                       Active Medications [**Known lastname 2691**],[**Known firstname **]
                     1. Metoprolol Tartrate 50 mg PO TID
   7. Ondansetron 4 mg IV Q8H:PRN Nausea
   2. Heparin 5000 UNIT SC TID
   8. Pantoprazole 40 mg PO Q12H  Order date: [**10-21**] @ 1400
   3. Insulin SC  (per Insulin Flowsheet)
   9. Senna 1 TAB PO BID:PRN
   4. FoLIC Acid 1 mg PO DAILY
   10. Acetaminophen 325-650 mg PO/PR Q6H:PRN
   5. Multivitamins 1 TAB PO DAILY
   11. Docusate Sodium (Liquid) 100 mg PO BID
   6. Thiamine 100 mg PO DAILY
   12. Vit C

2148-10-25 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 48 M with HTN, hyperlipidemia, severe AS, and tobacco
   abuse who was transferred from an OSH for further evaluation and
   management of his heart failure, aortic stenosis, and acute respiratory
   distress.
   24 Hour Events:
   Restarted on home dose of PO lasix
   Chest CT:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-10-24**] 11:45 PM
   Heparin Sodium (Prophylaxis) - [**2148-10-24**] 11:45 PM
   Other medications:
   Flowsheet Data as of  [**2148-10-25**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.7
   HR: 70 (64 - 95) bpm
   BP: 109/83(89) {97/63(75) - 119/88(110)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.4 kg (admission): 83.2 kg
   Height: 70 Inch
                  Total In:
                                                                  1,480 mL
                                                                    720 mL
   PO:
                                                                  1,480 mL
                                                                    720 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,381 mL
                                                                    190 mL
   Urine:
                                                                  1,381 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     99 mL
                                                                    530 mL
   Physical Examination
   GEN: NAD
   HEENT: Sclera icteric
   CV: loud systolic murmur at upper sternal borders and apex. RRR
   PULM: CTA B
   ABD: soft, NT, ND, +BS, no HSM
   EXT: warm, petechial rash resolving, erythematous distally with edema
   NEURO: A+Ox3.
   Labs / Radiology
   335 K/uL
   14.1 g/dL
   108 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.0 mEq/L
   17 mg/dL
   106 mEq/L
   140 mEq/L
   43.2 %
   10.1 K/uL
        [image002.jpg]
                            [**2148-10-20**]  01:37 AM
                            [**2148-10-20**]  02:09 AM
                            [**2148-10-20**]  04:05 PM
                            [**2148-10-21**]  06:06 AM
                            [**2148-10-21**]  04:01 PM
                            [**2148-10-21**]  06:11 PM
                            [**2148-10-22**]  04:29 AM
                            [**2148-10-23**]  04:00 AM
                            [**2148-10-24**]  04:10 AM
                            [**2148-10-25**]  04:50 AM
   WBC
   9.6
   9.9
   11.3
   10.8
   9.1
   10.1
   Hct
   50.2
   43.7
   40.7
   40.2
   41.7
   43.2
   Plt
   196
   180
   205
   238
   275
   335
   Cr
   1.2
   1.1
   1.2
   1.2
   1.1
   1.0
   0.9
   1.0
   TCO2
   29
   24
   Glucose
   160
   153
   105
   118
   109
   117
   108
   Other labs: PT / PTT / INR:15.1/27.5/1.3, CK / CKMB /
   Troponin-T:87/5/0.03, ALT / AST:73/65, Alk Phos / T Bili:188/3.5,
   Differential-Neuts:77.7 %, Lymph:10.8 %, Mono:10.6 %, Eos:0.2 %,
   Fibrinogen:216 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL, LDH:459
   IU/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan:
   48 M with HTN, hyperlipidemia, severe AS, and tobacco abuse who was
   transferred from an OSH for further evaluation and management of his
   heart failure, aortic stenosis, and acute respiratory distress.
   # PUMP:
   1) Biventricular heart failure
 Multifactorial
 likely secondary to
   severe AS, also MR, nutritional deficiency (confirmed Vit C
   deficiency).
   - Continue MVi, Thiamine, Folate
   - s/p Vit C repletion (5 days), now on maintenance repletion
   - Patient has S2 present, indicative of his improvement. (Initially
   unable to hear heart sounds, just murmur)
   - restarting home PO Lasix regimen
   2) Hypertension
 on BB, hold ace for now given dependency on preload.
   # RHYTHM:
   - NSR with occasional PVCs
   # ISCHEMIA:
   Risk factors: HTN, HL
 BP on BB, statin held for LFT abnormalities
   Will eventually need repeat Cath, CT scan, carotid ultrasound, dental
   prior to valve replacement
 will try to get some today.
   - if not a surgical candidate can consider valvuloplasty as temporary
   solution.
   # RESPIRATORY:
   - Extubated, now without [**Last Name (un) **] [**Doctor Last Name **] breathing.  Attributed to
   patient
s CHF and toxic metabolic given multiple sedative meds in
   setting of chronic etoh abuse. CT head negative.
   - Weaning O2
   #AGITATION:
   Patient continues to have episodes of agitation, resolved with Haldol
   and Zydis prn.  [**Month (only) 8**] be related to patient not clearing Benzo/Fentanyl
   in light of his liver issues.
   - Continue Zydis or Haldol prn
   #ID
   - Pneumonia resolved s/p 7 day course of Zosyn.
   - WBC stable, afebrile but diaphoretic
   - BCx and UCx all without growth, will recheck UA
   # HEPATIC: LFTs stable at slightly elevated, thought to be due to
   congestion and h/o liver disease.
   - Will recheck ultrasound, given plateaued LFTs and prior [**Location (un) 118**] of
   sludge.
   - Ammonia 31
   # GASTRIC
 Stable.  Had upper GI bleed on presentation Hct stable.
   UGI showed gastritic/duodenitis without active bleeding and no varices.
   - Protonix PO BID
   - C Diff neg x 1
   # ACUTE RENAL INSUFFICIENCY
 Resolved with free water.  Patient now
   taking po
s.  Cr 1.1
   # TOXIC
 etoh abuse. No need for CIWA anymore.
   # FEN
 Cardiac Diet
   # PPx - Protonix PO BID, SQ heparin, pneumoboots
   # Access: Now with 2 PIVs, OK to pull CVL.
   # Code status
 full code
   # Dispo
 CCU